US07868199B2
Synthesis of 1-[1-hydroxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]cyclopentanol
A flask was charged with 9.7 g of magnesium and 200 ml of tetrahydrofuran, to which 43.2 g of 1,4-dibromobutane was added dropwise at 60° C. After the completion of dropwise addition, the contents were stirred for one hour at 60° C., and 22.6 g of methyl 2-hydroxy-3,3,3-trifluoro-2-trifluoromethylpropionate was added dropwise below 50° C. The mixture was stirred for one hour at room temperature, after which an ammonium chloride aqueous solution was added. This was followed by ordinary work-up and vacuum distillation, obtaining 22.4 g of the target compound (yield 89%).

reactant | magnesium | 9.7 g | [Mg] | Mg
reactant | 1,4-dibromobutane | 43.2 g | BrCCCCBr | C4H8Br2
reactant | methyl 2-hydroxy-3,3,3-trifluoro-2-trifluoromethylpropionate | 22.6 g | OC(C(=O)OC)(C(F)(F)F)C(F)(F)F | C5H4F6O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-[1-hydroxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]cyclopentanol | 22.4 g, yield 89% | OC(C(F)(F)F)(C(F)(F)F)C1(CCCC1)O | C8H10F6O2
